US03966736
In the manner given in Example 25, to 6,7-dibromo -9-[(diethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo-[4,3-a][1,5]benzodiazepin-3-one in dimethylformamide is added a solution of sodium hydride in mineral oil. The mixture is allowed to react at about 95° C. for 40 minutes and after cooling propyl chloride in xylene is added. The mixture is kept at 95°-100° C. for a period of 22 hours, evaporated and worked up as in exanmple 25 to give 6,7-dibromo-2,9-dihydro-2-propyl-9-[(diethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one.

reactant | 6,7-dibromo -9-[(diethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo-[4,3-a][1,5]benzodiazepin-3-one | BrC1=CC2=C(N(C3=C(C=4N2C(NN4)=O)C=CC=N3)C(CN(CC)CC)=O)C=C1Br | C19H18Br2N6O2
reactant | sodium hydride | [H-].[Na+]
reactant | propyl chloride | C(CC)Cl | C3H7Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dibromo-2,9-dihydro-2-propyl-9-[(diethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one | BrC1=CC2=C(N(C3=C(C=4N2C(N(N4)CCC)=O)C=CC=N3)C(CN(CC)CC)=O)C=C1Br | C22H24Br2N6O2
